US04227011
4-Chloromethyl-4-hydroxy-1-octyne
To a stirred suspension of 2.1 g. of magnesium and 20 mg. of mercuric chloride in 25 ml. of ether is added 0.8 ml. of propargyl bromide. After a few minutes of vigorous stirring, to this is added a mixture of 10.75 g. of 1-chloro-2-hexanone and 7.2 ml. of propargyl bromide in 25 ml. of ether, at such a rate that the reaction mixture is maintained at 25°-28° C. After addition, the mixture is stirred at room temperature one hour, cooled in a ice-water bath and 30 ml. of saturated ammonium chloride is added dropwise. The mixture is filtered through celite and washed with ether. The ether solution is concentrated to give 11.0 g. of a yellow liquid which is vacuum distilled to give 6.9 g. of product as a colorless liquid at b.p. 60°-61° C./4 mm.; PMR δ 3.62 (ABq, CH2Cl), 2.53 (d, J=3, C≡C--CH2), 2.06 (t, J=3, HC≡C).

reactant | magnesium | [Mg] | Mg
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 1-chloro-2-hexanone | ClCC(CCCC)=O | C6H11ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 4-Chloromethyl-4-hydroxy-1-octyne | ClCC(CC#C)(CCCC)O | C9H15ClO
